US09233979B2
A 100 mL round bottom flask charged with 6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine (1500 mg, 3.65 mmol) in DCM (30 ml) and pyridine (3 mL) was cooled to 0° C. using an ice bath. Methyl chloroformate (0.564 ml, 7.30 mmol) was added and the reaction mixture was stirred for 16 h warming to ambient temperature. The mixture was washed with saturated copper sulfate solution (2×50 mL), dried (MgSO4), filtered and the solvent evaporated under reduced pressure. The resulting residue was purified by flash column chromatography on silica gel (ISCO; 40 g prepacked) eluting with ethyl acetate/hexanes to afford methyl (6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate (1492 mg, 3.18 mmol, 87% yield) as a white solid. MS ESI calc'd. For C27H22ClN4O2 [M+H]+ 469. found 469.

reactant | 6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine | 3.65 mmol, 1500 mg | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N | C25H19ClN4
reactant | Methyl chloroformate | 7.30 mmol, 0.564 ml | ClC(=O)OC | C2H3ClO2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | methyl (6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate | 3.18 mmol, 1492 mg, 87% yield | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(OC)=O | C27H21ClN4O2
